US07098228B2
In analogy to the procedures described in examples 1 a] and 1 b], rac-2-ethoxy-3-(1H-indol-4-yl)-propionic acid ethyl ester was reacted with methanesulfonic acid 3-(5-methyl-2-phenyl-oxazol-4-yl)-propyl ester in N,N-dimethylformamide in the presence of sodium hydride to yield rac-2-ethoxy-3-{1-[3-(5-methyl-2-phenyl-oxazol-4-yl)-propyl]-1H-indol-4-yl}-propionic acid ethyl ester, which was subsequently saponified to yield rac-2-ethoxy-3-{1-[3-(5-methyl-2-phenyl-oxazol-4-yl)-propyl]-1H-indol-4-yl}-propionic acid as light brown oil.

reactant | rac-2-ethoxy-3-(1H-indol-4-yl)-propionic acid ethyl ester | C(C)OC(C(CC1=C2C=CNC2=CC=C1)OCC)=O | C15H19NO3
reactant | methanesulfonic acid 3-(5-methyl-2-phenyl-oxazol-4-yl)-propyl ester | CC1=C(N=C(O1)C1=CC=CC=C1)CCCOS(=O)(=O)C | C14H17NO4S
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | rac-2-ethoxy-3-{1-[3-(5-methyl-2-phenyl-oxazol-4-yl)-propyl]-1H-indol-4-yl}-propionic acid ethyl ester | C(C)OC(C(CC1=C2C=CN(C2=CC=C1)CCCC=1N=C(OC1C)C1=CC=CC=C1)OCC)=O | C28H32N2O4
